US05387685
2,3-Dihyro-6-methoxy-1H-isoindol-5-ol
To 35 mL of ethyl alcohol is added 0.5 g of 2,3-dihydro-5-methoxy-6-(phenylmethoxy)-2-(phenylmethyl)-1H-isoindole. The solution is warmed until everything is dissolved. The solution is cooled to room temperature and 0.13 g of 35% palladium hydroxide on carbon is added. The resulting mixture is shaken on a Parr apparatus at 50 pounds per square inch for 21 hours. The solution is filtered through a pad of diatomaceous earth and the pad washed with ethyl alcohol. The volatiles are removed to afford 0.209 g of the desired product as a tan solid.

reactant | 2,3-dihydro-5-methoxy-6-(phenylmethoxy)-2-(phenylmethyl)-1H-isoindole | 0.5 g | COC=1C=C2CN(CC2=CC1OCC1=CC=CC=C1)CC1=CC=CC=C1 | C23H23NO2
catalyst | palladium hydroxide on carbon | 0.13 g | [OH-].[OH-].[Pd+2]
solvent | ethyl alcohol | 35 mL | C(C)O | C2H6O
product | 2,3-Dihyro-6-methoxy-1H-isoindol-5-ol | 0.209 g | COC1=C(C=C2CNCC2=C1)O | C9H11NO2
